* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\311Project\Charger\Simulations\Charger_OVPOCP_Latch.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N005 OCP 2.2k
Q1 N003 N005 0 0 2N3904
R2 5V N003 2.2k
Q2 N006 N004 5V 0 2N3906
R3 N004 N003 2.2k
R4 N006 N005 1k
X§M1 N008 P001 5V irf4905slpbf
C1 N005 0 1n
R5 N006 P001 1k
R_latch_load1 N008 0 100
X§U1 Vover_current 0.6V 5V 0 OCP LM2903B
R6 5V OCP 10k
X§U2 Vover_voltage 2.5V 5V 0 OVP LM2903B
R7 5V OVP 10k
V1 Vover_voltage 0 PULSE(0 5 0.5 0 0 0.5 1)
V2 Vover_current 0 PULSE(0 5 0.5 0 0 0.5 1)
V3 0.6V 0 0.6
V4 2.5V 0 2.5
R8 OCP 0 10k
V5 5V 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\jmstr\AppData\Local\LTspice\lib\cmp\standard.bjt
* OVP
* OCP
.tran 1
.include irf4905slpbf.txt
.include TLC081.mod
.include BAT85.txt
.include lm393.lib
.include irf3205.spi
* Latch\\
.backanno
.end
