* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\311Project\Charger\Simulations\Charger_OVPOCP_Latch.asc
* Generated by LTspice 24.1.9 for Windows.
R1 VQ1b N007 2.2k
Q1 N003 VQ1b 0 0 2N3904
R2 5V N003 2.2k
Q2 N005 N004 5V 0 2N3906
R3 N004 N003 2.2k
R4 N005 VQ1b 1k
X§M1 N008 P001 5V irf4905slpbf
R5 N005 P001 1k
R_latch_load1 N008 0 100
X§U1 Vover_current 0.6V 5V 0 OCP LM2903B
R6 5V OCP 10k
V2 Vover_current 0 PULSE(0 3 0.01 0 0 0.1 0.5)
V3 0.6V 0 0.6
V5 5V 0 5
D1 N006 0 D
R8 N006 N005 100
X§U3 0 2.5V 5V 0 OVP LM2903B
R9 5V OVP 10k
V6 Vover_voltage 0 PULSE(0 3 0.01 0 0 0.1 0.5)
V7 2.5V 0 2.5
X§D3 OVP N007 BAT85
D2 OCP N007 D
.model D D
.lib C:\Users\jmstr\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\jmstr\AppData\Local\LTspice\lib\cmp\standard.bjt
* OCP
.tran 1
.include irf4905slpbf.txt
.include TLC081.mod
.include BAT85.txt
.include lm393.lib
.include irf3205.spi
* Latch\\
.ic V(VQ1b)=0
* OVP
.backanno
.end
